US07943652B2
Step b: Preparation of (E)-3-(4-{1-[2-(2-tert-butyl-6-nitro-1H-indol-3-yl)-ethyl]-pyrrolidin-2-yl}-phenyl)-acrylic acid methyl ester
To a solution of (2-tert-butyl-6-nitro-1H-indol-3-yl)-acetaldehyde (0.74 g, 2.8 mmol) in tetrahydrofuran (20 mL) was added (E)-3-(4-pyrrolidin-2-yl-phenyl)-acrylic acid methyl ester hydrochloride (0.91 g, 3.4 mmol) and triethylamine (871 μL, 6.26 mmol). The resulting mixture was stirred at room temperature for 1 h and sodium triacetoxyborohydride (0.88 g, 4.0 mmol) was added. The mixture was stirred at room temperature for 16 h, diluted with ethyl acetate, and washed with a saturated sodium bicarbonate and a saturated aqueous solution of sodium chloride. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified via silica gel column chromatography to give the title compound (0.77 g, 57%). LCMS (m/z): 476.2539 (M+1).

reactant | (2-tert-butyl-6-nitro-1H-indol-3-yl)-acetaldehyde | 2.8 mmol, 0.74 g | C(C)(C)(C)C=1NC2=CC(=CC=C2C1CC=O)[N+](=O)[O-] | C14H16N2O3
reactant | (E)-3-(4-pyrrolidin-2-yl-phenyl)-acrylic acid methyl ester hydrochloride | 3.4 mmol, 0.91 g | Cl.COC(\C=C\C1=CC=C(C=C1)C1NCCC1)=O
reactant | triethylamine | 6.26 mmol, 871 μL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 4.0 mmol, 0.88 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-3-(4-{1-[2-(2-tert-butyl-6-nitro-1H-indol-3-yl)-ethyl]-pyrrolidin-2-yl}-phenyl)-acrylic acid methyl ester | 0.77 g, 57% | COC(\C=C\C1=CC=C(C=C1)C1N(CCC1)CCC1=C(NC2=CC(=CC=C12)[N+](=O)[O-])C(C)(C)C)=O | C28H33N3O4
